US06982274B2
3-(3-Fluoro-phenyl)-6-methoxy-1H-indazole-5-carboxylic acid
A total of 172 mg of 3-(3-fluoro-phenyl)-6-methoxy-1H-indazole-5-carbonitrile obtained in Production Example II-1-d was dissolved in 2 ml of acetic acid, 0.7 ml of water and 0.5 ml of sulfuric acid, followed by stirring at 110° C. for 18 hours. After cooling to room temperature, water was added to the reaction mixture. The resulting crystals were washed with water, to give 159 mg of the title compound as light pink crystals.

reactant | 3-(3-fluoro-phenyl)-6-methoxy-1H-indazole-5-carbonitrile | 172 mg | FC=1C=C(C=CC1)C1=NNC2=CC(=C(C=C12)C#N)OC | C15H10FN3O
reactant | water | 0.7 ml | O | H2O
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 3-(3-Fluoro-phenyl)-6-methoxy-1H-indazole-5-carboxylic acid | 159 mg | FC=1C=C(C=CC1)C1=NNC2=CC(=C(C=C12)C(=O)O)OC | C15H11FN2O3
